US05719151
Synthesis of 3-formylaminobenzamide (Compound 1)
10 gm of 3-aminobenzamide and 80 ml of 98 to 100% formic acid were refluxed for 60 minutes. The formic acid was removed by evaporation under vacuum; the residual oily product was mixed with water and evaporated to yield a solid residue. This solid was crystallized from water to give 8.2 gm (yield=68%) of white, round crystals with a melting point of 176° C. to 177° C. Mass spectrum analysis indicated a molecular weight of 164.

reactant | 3-aminobenzamide | 10 gm | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
reactant | formic acid | 80 ml | C(=O)O | CH2O2
product | 3-formylaminobenzamide | yield=68% | C(=O)NC=1C=C(C(=O)N)C=CC1 | C8H8N2O2
